US05840726
Synthesis of (S)-3-(1H-Indol-3-ylmethyl)-1-(2-phenyl-ethyl)-2-oxo-piperazine
Combine N-t-butoxycarbonyl-N-(2-oxo-ethyl)-2-phenyl-ethylamine (5.10 g, 19.16 mmol) and (S)-2-(1H-indol-3-yl)-1-carboxymethyl-ethylamine hydrochloride salt ((S)-tryptophan methyl ester hydrochloride salt) (4.90 g, 19.23 mmol) in methanol (50 mL) and stir for 10 minutes. Add sodium cyanoborohydride in solution (19.0 mL, 1M in THF, 19.0 mmol) and stir under an inert atmosphere for 18 hours. Concentrate in vacuo to obtain a residue. Dilute the residue with ethyl acetate and extract with water. Separate the layers, dry the organic layer over MgSO4, filter, and evaporate in vacuo. Chromatograph on silica gel eluting with 50% ethyl acetate/hexane to give the title compound.

reactant | N-t-butoxycarbonyl-N-(2-oxo-ethyl)-2-phenyl-ethylamine | 19.16 mmol, 5.10 g | C(C)(C)(C)OC(=O)N(CC=O)CCC1=CC=CC=C1 | C15H21NO3
reactant | (S)-2-(1H-indol-3-yl)-1-carboxymethyl-ethylamine hydrochloride salt | 19.23 mmol, 4.90 g | Cl.N1C=C(C2=CC=CC=C12)C[C@@H](CC(=O)O)N
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
solvent | methanol | 50 mL | CO | CH4O
solvent | THF | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-3-(1H-Indol-3-ylmethyl)-1-(2-phenyl-ethyl)-2-oxo-piperazine | N1C=C(C2=CC=CC=C12)C[C@H]1C(N(CCN1)CCC1=CC=CC=C1)=O | C21H23N3O
